US09303033B2
4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (51 mg, 0.16 mmol) was suspended in EtOH (1.6 mL). 3-methylimidazolidine-2,4-dione (28 mg, 0.24 mmol) and piperidine (24 μL, 0.24 mmol) were added and the reaction was heated to 80° C. After 15 h, the solution was diluted with H2O (2 mL) and filtered. The filter cake was washed with 50% H2O/50% EtOH (3 mL) and then dried in vacuo (˜1 mmHg) to furnish (Z)-4-(7-(cyclopropylamino)-3-((1-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (45 mg, 68%) as a bright yellow solid. LCMS (ES): >90% pure, m/z 415 [M+1]+.

reactant | 4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 0.16 mmol, 51 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC2=CC=C(C#N)C=C2 | C17H14N6O
reactant | 3-methylimidazolidine-2,4-dione | 0.24 mmol, 28 mg | CN1C(NCC1=O)=O | C4H6N2O2
reactant | piperidine | 0.24 mmol, 24 μL | N1CCCCC1 | C5H11N
solvent | EtOH | 1.6 mL | CCO | C2H6O
solvent | H2O | 2 mL | O | H2O
product | (Z)-4-(7-(cyclopropylamino)-3-((1-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 45 mg, 68% | C1(CC1)NC1=CC(=NC=2N1N=CC2\C=C\2/NC(N(C2=O)C)=O)NC2=CC=C(C#N)C=C2 | C21H18N8O2
